US07863291B2
A mixture of 6-chloropyrimidin-4-amine (0.32 g, 2.5 mmol), phenylboronic acid (0.38 g, 3.13 mmol), saturated aqueous sodium carbonate (0.80 g, 7.50 mmol) and bis(triphenylphosphine)palladium(II) chloride (0.035 g, 0.05 mmol) were suspended in a mixture of dimethoxyethane (15 mL)/ethanol (2 mL)/water (2 mL). The mixture was heated in the microwave at 125° C. for 20 min then concentrated in vacuo. The residue was purified by column chromatography (10-60% ethyl acetate/hexanes) to afford 6-phenylpyrimidin-4-amine (167 mg, 0.98 mmol, 39% yield) as an off-white solid. MS (LC/MS) R.T.=0.99; [M+H]+=172.23.

reactant | 6-chloropyrimidin-4-amine | 2.5 mmol, 0.32 g | ClC1=CC(=NC=N1)N | C4H4ClN3
reactant | phenylboronic acid | 3.13 mmol, 0.38 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 7.50 mmol, 0.80 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 2 mL | C(C)O | C2H6O
solvent | dimethoxyethane | 15 mL | C(OC)COC | C4H10O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.05 mmol, 0.035 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 2 mL | O | H2O
product | 6-phenylpyrimidin-4-amine | 0.98 mmol, 167 mg, 39% yield | C1(=CC=CC=C1)C1=CC(=NC=N1)N | C10H9N3
